US06335459B1
Quinoline (54 μL) and a Lindlar catalyst (54 mg) were added to a stirred solution of [3-(3-hydroxyprop-1-ynyl)phenoxy]acetic acid tert-butyl ester (547 mg, 2.09 mmol) in methanol (4.3 mL) under a nitrogen atmosphere. The mixture was stirred for 1 hour in a balloon filled with hydrogen, filtered, and the filtrate was taken to dryness. The residue was purified by flash chromatography, eluting with hexane/ethyl acetate, dissolved in diethyl ether, and washed with 2 N hydrochloric acid (10 mL) and 10% sodium bicarbonate, dried over sodium sulfate, and concentrated to give cis-[3-(3-hydroxypropenyl)phenoxy]acetic acid tert-butyl ester as a colorless oil (420 mg, 76%).

reactant | Quinoline | 54 μL | N1=CC=CC2=CC=CC=C12 | C9H7N
reactant | [3-(3-hydroxyprop-1-ynyl)phenoxy]acetic acid tert-butyl ester | 2.09 mmol, 547 mg | C(C)(C)(C)OC(COC1=CC(=CC=C1)C#CCO)=O | C15H18O4
reactant | hydrogen | [H][H] | H2
catalyst | Lindlar catalyst | 54 mg | [Pd].CC(=O)[O-].CC(=O)[O-].[Pb+2]
solvent | methanol | 4.3 mL | CO | CH4O
product | cis-[3-(3-hydroxypropenyl)phenoxy]acetic acid tert-butyl ester | 420 mg, 76% | C(C)(C)(C)OC(COC1=CC(=CC=C1)\C=C/CO)=O | C15H20O4
